US07595321B2
4-(Pyrrolidin-1-ylsulfonyl)phenylboronic acid
n-Butyllithium (20 mL, 31 mmol) was added dropwise over 30 min to a cooled (−78° C.) solution of 1-[(4-bromobenzenesulfonyl)pyrrolidine (3.0 g, 10.3 mmol) and triisopropyl borate (7.2 mL, 30.9 mol) in anhydrous tetrahydrofuran (10 mL) under a nitrogen atmosphere. The reaction mixture was stirred for 1 h at −78° C. whereafter the temperature was allowed to reach room temperature over 3 h. Silica gel was added and the solvent was evaporated. Chromatography on a silica gel column using a gradient methylene chloride (100%) to methylene chloride/ethanol, (1:1), gave 1.85 g (70% yield) of the title compound as a white solid: 1H NMR (CD3OD, 400 MHz) δ 7.90 (d, J=7 Hz, 2H), 7.75 (d, J=8 Hz, 2H), 3.21 (m, 4H), 1.72 (m, 4H); 13C NMR (CDCl3/CD3OD (1:1), 100 MHz) δ 136.79, 133.50, 125.48, 47.19, 24.30; MS (ES) m/z 256 (M++1).

reactant | n-Butyllithium | 31 mmol, 20 mL | C(CCC)[Li]
reactant | (4-bromobenzenesulfonyl)pyrrolidine | 10.3 mmol, 3.0 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C10H12BrNO2S
reactant | triisopropyl borate | 30.9 mol, 7.2 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(Pyrrolidin-1-ylsulfonyl)phenylboronic acid | 1.85 g, 70% yield | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C10H14BNO4S
